US05389640
2-Methoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline
Using the general method of Example 91, 3-amino-4-(phenylmethylamino)quinoline (4.0 g, 16 mmol) was reacted with methoxyacetic acid (3.7 mL) to provide 4.4 g of the desired product as a solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 3-amino-4-(phenylmethylamino)quinoline | 16 mmol, 4.0 g | NC=1C=NC2=CC=CC=C2C1NCC1=CC=CC=C1 | C16H15N3
reactant | methoxyacetic acid | 3.7 mL | COCC(=O)O | C3H6O3
product | 2-Methoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline | 4.4 g | COCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1=CC=CC=C1 | C19H17N3O
